US07700638B2
7-(3-(N-Methyl acetamido)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole
To a solution of 7-(3-acetamidophenyl)-1-phenyl-5-trifluoromethylbenzimidazole (0.35 g, 0.88 mmol) in anhydrous tetrahydrofurane (5 ml) was added sodium hydride (0.09 g 60% dispersion in mineral oil, 2.2 mmol). The resultant mixture was stirred for one hour at ambient temperature, whereafter iodomethane (0.44 ml, 7 mmol) was added and the temperature was raised to 40° C. for 30 min. The cooled mixture was partitioned between water and ethyl acetate. The organic layer was washed with water, dried over magnesium sulphate and concentrated under reduced pressure. The concentrate was eluted through silica gel with a mixture of dichloromethane and methanol (97:3, v/v). Removal of solvent from the eluate afforded the title product (0.13 g, 36%) m/z, 410.1 (M+H)+.

reactant | 7-(3-acetamidophenyl)-1-phenyl-5-trifluoromethylbenzimidazole | 0.88 mmol, 0.35 g | C(C)(=O)NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C22H16F3N3O
reactant | sodium hydride | 2.2 mmol, 0.09 g | [H-].[Na+]
reactant | iodomethane | 7 mmol, 0.44 ml | IC | CH3I
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | 7-(3-(N-Methyl acetamido)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole | 0.13 g, 36% | CN(C(C)=O)C=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C23H18F3N3O
